US07138413B1
7-Chloro-4-(8-piperidinooctylamino)quinoline
1,8-Dibromooctane (30 mmol), potassium phthalimide (15 mmol), and catalytic amounts of potassium iodide were refluxed in acetone for 3 days. The solvent was evaporated, and the residue was purified by flash chromatography on silica gel (eluent: methylene chloride/petroleum ether (60/40)). The solvent was removed under reduced pressure. The product (12,5 mmol), piperidine (50 mmol), and catalytic amounts of potassium iodide were refluxed in acetone for 12 hours. Solvent and piperidine were evaporated. The residue was treated with hydrochloric acid (2N), with potassium carbonate solution and was then extracted with methylene chloride. The solvent was removed under reduced pressure, and the residue was refluxed in hydrochloric acid (6N) for 12 hours. The solution was neutralized with potassium carbonate solution and extracted with methylene chloride. The organic layer was evaporated and the product was purified by flash chromatography on silica gel (eluent: methylene chloride/triethylamine/methanol (90/10/2)). The product (5 mmol), 4,7-dichloroquinoline (5 mmol), and catalytic amounts of potassium iodide were melted with 10 g of phenole for 12 hours. The residue was purified by flash chromatography (eluent: ethyl acetate/triethylamine (95/5)). The solvent was removed under reduced pressure. The residue was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | 1,8-Dibromooctane | 30 mmol | BrCCCCCCCCBr | C8H16Br2
reactant | potassium phthalimide | 15 mmol | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium iodide | [I-].[K+]
reactant | piperidine | 50 mmol | N1CCCCC1 | C5H11N
reactant | 4,7-dichloroquinoline | 5 mmol | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | phenole | 10 g | C1=CC=C(C=C1)O | C6H6O
solvent | acetone | CC(=O)C | C3H6O
product | 7-Chloro-4-(8-piperidinooctylamino)quinoline | ClC1=CC=C2C(=CC=NC2=C1)NCCCCCCCCN1CCCCC1 | C22H32ClN3
